US05439917
5-Chloro-3-cyanomethyl-2-methyl-7-phenacylpyrrolo[2,3-b]pyridine
A mixture of 5-chloro-3-cyanomethyl-2-methyl-pyrrolo[2,3-b]pyridine (147 mg, 0.7 mmol) and phenacylbromide (142 g, 7 mmol) in 12 ml CH3CN was refluxed for 22h. The reaction mixture was cooled and precipitated title compound was collected and washed with small portions of ice cold diethyl ether. Treatment of the filtrate with diethyl ether afforded a second and third lot of pure title compound. Total yield 257 mg (91%) calculated as the hydrobromide.

reactant | 5-chloro-3-cyanomethyl-2-methyl-pyrrolo[2,3-b]pyridine | 0.7 mmol, 147 mg | ClC=1C=C2C(=NC1)NC(=C2CC#N)C | C10H8ClN3
reactant | phenacylbromide | 7 mmol, 142 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | CH3CN | 12 ml | CC#N | C2H3N
product | 5-Chloro-3-cyanomethyl-2-methyl-7-phenacylpyrrolo[2,3-b]pyridine | ClC=1C=C2C(N(C1)CC(=O)C1=CC=CC=C1)=NC(=C2CC#N)C | C18H14ClN3O
